US06639076B1
A mixture of ethyl 2-(2-naphthyl)-2-(4-nitroimidazolyl)acetate (2.04 grams, 6.27 mmol), tetrahydrofuran (20 mL), and 10% palladium on carbon (2.04 gram) was hydrogenated at ambient temperature and pressure until complete as determined by hplc (20 hours). The catalyst was removed by filtration and rinsed with tetrahydrofuran (10 mL). The filtrate was added to a slurry consisting of 1-[3-(dimethylamino)propyl-3-ethylcarbodiimide hydrochloride (1.20 grams, 6.27 mmol), tetrahydrofuran (10 mL), and (2R)-2-{2-[(tert-butoxy)carbonylamino]-2-methylpropanoylamino}-3-indol-3-ylpropanoic acid (2.44 grams, 6.27 mmol) and stirred 16 hours at ambient temperature. The reaction mixture was partitioned between water (150 mL) and ethyl acetate (3×50 mL). The organic extracts were combined, washed with saturated sodium chloride solution, dried using sodium sulfate, and evaporated. The resulting crude oil was purified by column chromatography on silica gel with hexane:ethyl acetate:methanol (10:10:1) as an eluent giving 1.72 grams (41%) of ethyl 2-(4-((2R)-2-{2-[(tert-butoxy)carbonylamino]-2-methylpropanoylamino}-3-indol-3-ylpropanoyl amino)imidazolyl]-2-(2-naphthyl)acetate. A 0.2 gram sample was further purified using preparative reverse phase hplc to give 0.16 grams of ethyl 2-[4-((2R)-2-{2-[(tert-butoxy)carbonylamino]-2-methylpropanoylamino)-3-indol-3-ylpropanoyl amino)imidazolyl]-2-(2-naphthyl)acetate for analytical study. MS (FIA) m/z 667.4 [(M+H)+]. Anal. calcd. exact mass for C37H43N6O6 [(M+H)+]=667.3244. Exact mass found by mass spectrometry: C37H43N6O6 [(M+H)+]=667.3254. 1H nmr (CDCl3): 1.25-1.42 (m, 19H), 3.24-3.33 (m, 2H), 4.28-4.33 (m, 2H), 4.98-5.01 (m, 1H), 5.94 (s, 1H), 6.85-7.01(m, 3H), 7.18-7.21 (m, 2H), 7.35-7.39 (m, 2H), 7.49-7.58 (m, 4H), 7.78-7.84 (m, 4H), 8.69 (s, 1H), 10.65 (s, broad, 1H).

reactant | ethyl 2-(2-naphthyl)-2-(4-nitroimidazolyl)acetate | 6.27 mmol, 2.04 grams | C1=C(C=CC2=CC=CC=C12)C(C(=O)OCC)C=1NC=C(N1)[N+](=O)[O-] | C17H15N3O4
reactant | 3-(dimethylamino)propyl-3-ethylcarbodiimide hydrochloride | 6.27 mmol, 1.20 grams | Cl.CN(CCCN=C=NCC)C
reactant | (2R)-2-{2-[(tert-butoxy)carbonylamino]-2-methylpropanoylamino}-3-indol-3-ylpropanoic acid | 6.27 mmol, 2.44 grams | C(C)(C)(C)OC(=O)NC(C(=O)N[C@@H](C(=O)O)CC1=CNC2=CC=CC=C12)(C)C | C20H27N3O5
catalyst | palladium on carbon | 2.04 gram | [Pd] | Pd
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | ethyl 2-(4-((2R)-2-{2-[(tert-butoxy)carbonylamino]-2-methylpropanoylamino}-3-indol-3-ylpropanoyl amino)imidazolyl]-2-(2-naphthyl)acetate | 1.72 grams, 41% | C(C)(C)(C)OC(=O)NC(C(=O)N[C@@H](C(=O)NC=1N=C(NC1)C(C(=O)OCC)C1=CC2=CC=CC=C2C=C1)CC1=CNC2=CC=CC=C12)(C)C | C37H42N6O6
